US08034937B2
b) 1-((S)-1-tert-Butoxycarbonyl-pyrrolidin-2-ylmethyl)-6-chloro-1H-indole-3-carboxylic acid
To a solution of 1.7 g (4.0 mmol) (S)-2-[6-chloro-3-(2,2,2-trifluoro-acetyl)-indol-1-ylmethyl]-pyrrolidine-1-carboxylic acid tert-butyl ester and 1.0 g (22 mmol) sodium hydride (50% in oil) in 40 ml dry N,N-dimethylformamide were added dropwise 0.36 ml (20 mmol) water under water-bath cooling. After stirring for 45 min the reaction mixture was diluted with 80 ml tert-butyl methyl ether. The organic layer was extracted with aqueous 1 M sodium hydroxide solution (2×100 ml). The combined aqueous layers were acidified to pH 2 with ice-cold aqueous hydrochloric acid solution and extracted with ethyl acetate (3×100 ml). The combined ethyl acetate layers were dried over sodium sulfate and concentrated to dryness to give the title compound (1.4 g, 96%) as a light yellow solid.

reactant | (S)-2-[6-chloro-3-(2,2,2-trifluoro-acetyl)-indol-1-ylmethyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 4.0 mmol, 1.7 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)CN1C=C(C2=CC=C(C=C12)Cl)C(C(F)(F)F)=O | C20H22ClF3N2O3
reactant | sodium hydride | 22 mmol, 1.0 g | [H-].[Na+]
reactant | water | 20 mmol, 0.36 ml | O | H2O
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | tert-butyl methyl ether | 80 ml | COC(C)(C)C | C5H12O
product | 1-((S)-1-tert-Butoxycarbonyl-pyrrolidin-2-ylmethyl)-6-chloro-1H-indole-3-carboxylic acid | 1.4 g, 96% | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)CN1C=C(C2=CC=C(C=C12)Cl)C(=O)O | C19H23ClN2O4
